US04891372
7-Nitro-3-(4-nitrophenethyl)-1,2,4,5-tetrahydro-3H-3-benzazepine hemihydrate
The title compound was prepared similarly to Preparation 2 by the reaction of 7-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine (0.5 g) and 4-nitrophenethyl bromide (0.6 g), which, after 18 hours reflux, gave the title compound as an oil, yield 0.29 g.

reactant | 7-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine | 0.5 g | [N+](=O)([O-])C1=CC2=C(CCNCC2)C=C1 | C10H12N2O2
reactant | 4-nitrophenethyl bromide | 0.6 g | [N+](=O)([O-])C1=CC=C(CCBr)C=C1 | C8H8BrNO2
product | 7-Nitro-3-(4-nitrophenethyl)-1,2,4,5-tetrahydro-3H-3-benzazepine hemihydrate | O.[N+](=O)([O-])C1=CC2=C(CCN(CC2)CCC2=CC=C(C=C2)[N+](=O)[O-])C=C1.[N+](=O)([O-])C1=CC2=C(CCN(CC2)CCC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | InChI=1S/2C18H19N3O4.H2O/c2*22-20(23)17-4-1-14(2-5-17)7-10-19-11-8-15-3-6-18(21(24)25)13-16(15)9-12-19;/h2*1-6,13H,7-12H2;1H2
